US06395897B1
2-(4-Isobutyloxazol-2-yl)pyridine (Method E)
Hexachloroethane (445 mg, 1.87 mmol) was dissolved in 5 mL CH3CN. A solution of pyridine-2-carboxylic acid (1-formyl-3-methylbutyl)amide (137.5 mg, 0.625 mmol) in 2 mL CH3CN was added followed by triethylamine (375 mg, 3.75 mmol) and triphenylphosphine (491 mg, 1.87 mmol). The resulting mixture was stirred for ½ h, poured into brine, and extracted with 2×25 mL EtOAc. The combined extracts were washed with 1×50 mL brine, dried with Na2SO4 and evaporated to 665 mg of a tan solid which was flash chromatographed through SiO2 (20%-35% hexane/EtOAc) yielding 100 mg (76%) of the title compound as an amber oil, MS (ES) 203 (M+).

reactant | Hexachloroethane | 1.87 mmol, 445 mg | ClC(C(Cl)(Cl)Cl)(Cl)Cl | C2Cl6
reactant | pyridine-2-carboxylic acid (1-formyl-3-methylbutyl)amide | 0.625 mmol, 137.5 mg | C(=O)C(CC(C)C)NC(=O)C1=NC=CC=C1 | C12H16N2O2
reactant | triethylamine | 3.75 mmol, 375 mg | C(C)N(CC)CC | C6H15N
reactant | triphenylphosphine | 1.87 mmol, 491 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | CH3CN | 5 mL | CC#N | C2H3N
solvent | CH3CN | 2 mL | CC#N | C2H3N
solvent | brine | [Cl-].[Na+].O
product | 2-(4-Isobutyloxazol-2-yl)pyridine | 100 mg, 76% | C(C(C)C)C=1N=C(OC1)C1=NC=CC=C1 | C12H14N2O
